US06919334B2
(2-Oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)methyl 4-methylbenzenesulfonate
Toluene-4-sulfonic acid 5-amino-3,4-dihydro-2H-benzo[1,4]oxazin-3-ylmethyl ester (6.7 g , ˜10 mmole) was dissolved in methylene chloride (100 mL), N, N-diisopropylethylamine (5.22 mL, 30.0 mmole) was added, followed by carbonyldiimidazole (4.05 g, 25.0 mmole), and the mixture was stirred at room temperature under nitrogen overnight. The mixture was diluted with methylene chloride (100 mL), washed with water (2×200 mL), saturated sodium bicarbonate (200 mL) saturated sodium chloride (200 mL) and dried (Na2SO4). Filtration, evaporation in vacuum and column chromatography on silica gel with 1% methanol/methylene chloride as eluent gave 2.0 g of the title compound as an off white solid, m.p. 140-142° C. 1H NMR (DMSO-d6): δ 10.7 (s, 1H); 7.63 (d, 2H); 7.47 (d, 2H); 6.82 (t, 1H); 6.57 (d, 1H); 6.52 (d, 1H); 4.53 (m, 1H); 4.43 (dd, 1H); 4.34 (dd, 1H); 4.16 (dd, 1H); 4.10 (dd, 1H); 2.38 (s, 3H). MS (ESI) m/z359 ([M−H]−).

reactant | Toluene-4-sulfonic acid 5-amino-3,4-dihydro-2H-benzo[1,4]oxazin-3-ylmethyl ester | ˜10 mmole, 6.7 g | NC1=CC=CC2=C1NC(CO2)COS(=O)(=O)C2=CC=C(C=C2)C | C16H18N2O4S
reactant | N, N-diisopropylethylamine | 30.0 mmole, 5.22 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | carbonyldiimidazole | 25.0 mmole, 4.05 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (2-Oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)methyl 4-methylbenzenesulfonate | 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C3N1C(NC3=CC=C2)=O | C17H16N2O5S
